US09233966B2
Preparation of Ticagrelor
Ticagrelor malonate (0.5 g) and ethyl acetate (10 mL) were charged into round bottom flask. To the mixture 10% aqueous sodium carbonate solution (50 mL) was added and mixture was stirred for 15 minutes. The layers were separated and organic layer was subjected to distillation under vacuum to afford the title compound.

reactant | Ticagrelor malonate | 0.5 g | CCCSC=1N=C(C2=C(N1)N(N=N2)[C@@H]3C[C@@H]([C@H]([C@H]3O)O)OCCO)N[C@@H]4C[C@H]4C=5C=CC(=C(C5)F)F.C(CC(=O)[O-])(=O)[O-]
reactant | sodium carbonate | 50 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | Ticagrelor | CCCSC=1N=C(C2=C(N1)N(N=N2)[C@@H]3C[C@@H]([C@H]([C@H]3O)O)OCCO)N[C@@H]4C[C@H]4C=5C=CC(=C(C5)F)F | C23H28F2N6O4S
